US04025349
EXAMPLE 7a: Preparation of Ethyl-2-(1-phenylacetonylidene)benzothiazoline
2-Benzyl-3-ethylbenzothiazolium p-toluenesulfonate (34 g, 0.08 mol), acetic anhydride (8.9 g, 0.088 mol) and dry pyridine (100 ml) are heated at reflux for 15 min., cooled and diluted with 1 liter of water. The oil which separates becomes crystalline on stirring. It is collected on a filter and washed with water. Yield 22.8 g (97%).

reactant | 2-Benzyl-3-ethylbenzothiazolium p-toluenesulfonate | 0.08 mol, 34 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C(C1=CC=CC=C1)C=1SC2=C([N+]1CC)C=CC=C2
reactant | acetic anhydride | 0.088 mol, 8.9 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 1 liter | O | H2O
product | Ethyl-2-(1-phenylacetonylidene)benzothiazoline | C(C)C1=CC=CC2=C1NC(S2)=C(C(=O)C)C2=CC=CC=C2 | C18H17NOS
